US07514566B2
Tert-butyl (2S,3S,E)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)hex-4-en-2-ylcarbamate (1.94 g, 5.4 mmol) was taken up in 50 mL of DCM and chilled to 0° C. N,N-diisopropylethylamine (2.4 mL, 13 mmol) was added, followed by slow addition of tert-butyldimethylsilyl trifluoromethanesulfonate (TBSOTf) (1.5 mL, 6.5 mmol). After 45 minutes, an additional 0.20 mL of TBSOTf was added. After an addition 20 minutes, the reaction was quenched with 50 mL of aq NaHCO3. The mixture was partitioned, and the aqueous portion was extracted twice with 50 mL of DCM. The combined organic extracts were dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (1% to 7.5% EtOAc/hexanes) afforded tert-butyl (2S,3S,E)-1-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)hex-4-en-2-ylcarbamate (2.0 g, 78% yield) as a clear oil. The oil crystallized on the bench top over 12 hours. 1H NMR (400 MHz, CDCl3) δ ppm 7.54 (d, J=8.02 Hz, 2H) 7.35 (d, J=8.02 Hz, 2H) 5.61 (s, 1H) 5.59 (d, J=5.87 Hz, 1H) 4.62-4.60 (m, 1H) 3.97-3.92 (m, 1H) 3.79-3.76 (m, 1H) 3.66-3.59 (m, 2H) 1.69 (d, J=5.28 Hz, 3H) 1.26 (s, 9H) 0.92-0.97 (m, 9H) 0.06 (s, 6H).

reactant | Tert-butyl (2S,3S,E)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)hex-4-en-2-ylcarbamate | 5.4 mmol, 1.94 g | OC[C@H]([C@@H](\C=C\C)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C18H24F3NO3
reactant | N,N-diisopropylethylamine | 13 mmol, 2.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 6.5 mmol, 1.5 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | TBSOTf | 0.20 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S,3S,E)-1-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)hex-4-en-2-ylcarbamate | 2.0 g, 78% yield | [Si](C)(C)(C(C)(C)C)OC[C@H]([C@@H](\C=C\C)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C24H38F3NO3Si
